US04830664
20.8 Parts of N-(1,2,3,4,4a,9,9a,10-octahydroanthracen-9-yl)-N'-cyano-formamidine were dissolved in 140 ml of N,N-dimethylformamide together with 0.1 parts of 18-crown-6. 28.4 Parts of potassium carbonate were added. The mixture was heated to +80'C. and 13.8 Parts of α-bromo-methyl-acetate were added. After 15 hours at +80° C. to +100° C. the reactants were poured on ice and the mixture was extracted with ether. The etheral extracts were dried with Na2SO4, filtered and concentrated. 21 Parts of crude residue were chromatographed on a silica gel column and extracted with an ethyl acetate/hexane mixture (1:1). 11.6 Parts (43%) of methyl 1-(1,2,3,4,4a,9,9a,10-octahydroanthracen-9-yl)-4-amino-1H-imidazole-5-carboxylate (int. 15), mp. 155°-159° C. were isolated.

reactant | N-(1,2,3,4,4a,9,9a,10-octahydroanthracen-9-yl)-N'-cyano-formamidine | C1CCCC2CC3=CC=CC=C3C(C12)NC=NC#N | C16H19N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | α-bromo-methyl-acetate | BrC(C(=O)[O-])C
solvent | N,N-dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
solvent | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | methyl 1-(1,2,3,4,4a,9,9a,10-octahydroanthracen-9-yl)-4-amino-1H-imidazole-5-carboxylate | 43% | C1CCCC2CC3=CC=CC=C3C(C12)N1C=NC(=C1C(=O)OC)N | C19H23N3O2
